US07094801B2
4-[3E-(2,4-Dimethoxy-5-thiazol-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-thiazol-2-yl-benzaldehyde (Ex-55A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp>260° C., 65% yield. 1H-NMR (DMSO-d6) δ 13.33 (bs, 1H), 8.74 (s, 1H), 8.22 (d, J=8 Hz, 2H), 8.04–8.12 (m, 3H), 7.95 (d, J=2 Hz, 1H), 7.82 (d, J=16 Hz, 1H), 7.76 (d, J=3 Hz, 1), 6.94 (s, 1H), 4.14 (s, 3H), 4.05 (s, 1H). HRMS m/z=calc. 396.0906, found 396.0903.

reactant | 2,4-dimethoxy-5-thiazol-2-yl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CN1 | C12H11NO3S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2,4-Dimethoxy-5-thiazol-2-yl-phenyl)-acryloyl]-benzoic acid | 65% yield | COC1=C(C=C(C(=C1)OC)C=1SC=CN1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C21H17NO5S
